US05594023
5-Chloro-3-(2-chlorophenyl)-1,3-dihydro-3-(dimethylamino)-1-(4-nitrobenzyl)indol-2-one
This compound is prepared according to the procedure described in EXAMPLE 89 from 1 g of 5-chloro-3-(2-chlorophenyl)-1,3-dihydro-3-(dimethylamino)indol-2-one, 0.132 g of sodium hydride as a 60% dispersion in oil, 5 ml of DMF and 0.741 g of 4-nitrobenzyl bromide. Chromatography on silica using a DCM/hexane mixture (80/20; v/v) and then DCM as the eluent gives 1.32 g of the expected product after crystallization from a DCM/iso ether mixture. M.p.=189°-193° C.

reactant | 5-chloro-3-(2-chlorophenyl)-1,3-dihydro-3-(dimethylamino)indol-2-one | 1 g | ClC=1C=C2C(C(NC2=CC1)=O)(N(C)C)C1=C(C=CC=C1)Cl | C16H14Cl2N2O
reactant | sodium hydride | 0.132 g | [H-].[Na+]
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
reactant | 4-nitrobenzyl bromide | 0.741 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | hexane AcOEt | CCCCCC.CCOC(=O)C
product | 5-Chloro-3-(2-chlorophenyl)-1,3-dihydro-3-(dimethylamino)-1-(4-nitrobenzyl)indol-2-one | 1.32 g | ClC=1C=C2C(C(N(C2=CC1)CC1=CC=C(C=C1)[N+](=O)[O-])=O)(N(C)C)C1=C(C=CC=C1)Cl | C23H19Cl2N3O3
